US07642367B2
4-(4-Methyl-piperazin-1-ylmethyl)-biphenyl-3-carbaldehyde
A solution of 1-biphenyl-4-ylmethyl-4-methyl-piperazine (26 mmol) in diethyl ether (50 mL) was added n-BuLi (38 mmol) and DMF (15 mL) and was refluxed for 6 h. The reaction was cooled and added 2 N NaOH (50 mL) and extracted with diethyl ether. Evaporation in vacuo gave a black oil that was purified by flash chromatography. Yield: 28% as black oil.

reactant | 1-biphenyl-4-ylmethyl-4-methyl-piperazine | 26 mmol | C1(=CC=C(C=C1)CN1CCN(CC1)C)C1=CC=CC=C1 | C18H22N2
reactant | n-BuLi | 38 mmol | [Li]CCCC
reactant | DMF | 15 mL | CN(C)C=O | C3H7NO
reactant | NaOH | 2 N, 50 mL | [OH-].[Na+]
solvent | diethyl ether | 50 mL | C(C)OCC | C4H10O
product | 4-(4-Methyl-piperazin-1-ylmethyl)-biphenyl-3-carbaldehyde | Yield: 28% | CN1CCN(CC1)CC1=C(C=C(C=C1)C1=CC=CC=C1)C=O | C19H22N2O
